US09120776B2
To a solution of 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoic acid (1.00 g, 4.06 mmol) in THF (15 mL) was added borane-THF complex (1.2M, THF solution 6.77 mL, 8.12 mmol) under ice-cooling. The mixture was stirred at room temperature for 14 hr, and the reaction mixture was poured into water. The mixture was extracted with ethyl acetate, the organic layer was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10 to 100% ethyl acetate/hexane) to give N-(4-cyanophenyl)-5-hydroxy-3-methylpentanamide (0.442 g, 1.904 mmol, 46.9%) as a colorless oil.

reactant | 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoic acid | 4.06 mmol, 1.00 g | C(#N)C1=CC=C(C=C1)NC(CC(CC(=O)O)C)=O | C13H14N2O3
reactant | borane THF | 8.12 mmol, 1.2M, 6.77 mL | B.C1CCOC1
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(4-cyanophenyl)-5-hydroxy-3-methylpentanamide | 1.904 mmol, 0.442 g, 46.9% | C(#N)C1=CC=C(C=C1)NC(CC(CCO)C)=O | C13H16N2O2
